US08212045B2
(S)-Methyl 3-(6-(3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-ylamino)-5-(2-methylpyridin-3-yloxy)pyridin-3-ylthio)propanoate (105 mg, 0.19 mmol) was dissolved in THF (5 ml) and KOtBu (65 mg, 0.58 mmol) was added. The mixture was agitated for 30 minutes and 1-bromo-3-methoxypropane (37 mg, 0.24 mmol) was added. The mixture was agitated for 1 hour, diluted with ethyl acetate, washed with sodium bicarbonate solution and brine, dried over sodium sulfate, filtered and evaporated. The residue was purified over silica gel (60-75% ethyl acetate/hexanes) to afford (S)-N-(5-(3-methoxypropylthio)-3-(2-methylpyridin-3-yloxy)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine (85 mg, 83% yield) as glassy colorless solid.

reactant | (S)-Methyl 3-(6-(3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-ylamino)-5-(2-methylpyridin-3-yloxy)pyridin-3-ylthio)propanoate | 0.19 mmol, 105 mg | O1[C@H](COC12CCCCC2)C2=NSC(=N2)NC2=C(C=C(C=N2)SCCC(=O)OC)OC=2C(=NC=CC2)C | C25H29N5O5S2
reactant | KOtBu | 0.58 mmol, 65 mg | CC(C)(C)[O-].[K+]
reactant | 1-bromo-3-methoxypropane | 0.24 mmol, 37 mg | BrCCCOC | C4H9BrO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-N-(5-(3-methoxypropylthio)-3-(2-methylpyridin-3-yloxy)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine | 85 mg, 83% yield | COCCCSC=1C=C(C(=NC1)NC1=NC(=NS1)[C@@H]1OC2(OC1)CCCCC2)OC=2C(=NC=CC2)C | C25H31N5O4S2
